US04281000
3-Bromo-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine
A mixture of 0.01 mole of 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one and 0.01 mole of 3-amino-4-bromopyrazole in glacial acetic acid is heated at reflux temperature for 8 hours. The solvent is removed to give the product of the example, m.p. 243°-244° C.

reactant | 3-dimethylamino-1-(3-pyridyl)-2-propen-1-one | 0.01 mole | CN(C=CC(=O)C=1C=NC=CC1)C | C10H12N2O
reactant | 3-amino-4-bromopyrazole | 0.01 mole | NC1=NNC=C1Br | C3H4BrN3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Bromo-7-(3-pyridyl)pyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=CC=C2C=2C=NC=CC2 | C11H7BrN4
